US07435823B2
Step (a) Preparation of 6-(2-(methylcarbamoyl)pyridine-4-yloxy)-1-napthoic acid
Cs2CO3 (52.0 g, 160 mmol) was added to a solution of 6-hydroxy-1-naphthoic acid (10 g, 53.0 mmol) in DMSO (140 mL). After stirring vigorously for 15 min N-methyl-4-chloropicolinamide (10.8 g, 61.0 mmol) was introduced and the mixture was heated at 100° C. for 10 h. After cooling to RT, the mixture was filtered through a plug of silica gel (10:1:0.5; CH2Cl2,CH3OH, AcOH). The filtrate was concentrated and triturated with EtOAc to provide the title compound as a slightly pink solid. MS (ESI, pos. ion) m/z: 323.3 (M+1). Mass Calc'd for C18H12N2O4: 322.31.

reactant | Cs2CO3 | 160 mmol, 52.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 6-hydroxy-1-naphthoic acid | 53.0 mmol, 10 g | OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C11H8O3
reactant | N-methyl-4-chloropicolinamide | 61.0 mmol, 10.8 g | CNC(C1=NC=CC(=C1)Cl)=O | C7H7ClN2O
solvent | DMSO | 140 mL | CS(=O)C | C2H6OS
product | 6-(2-(methylcarbamoyl)pyridine-4-yloxy)-1-napthoic acid | CNC(=O)C1=NC=CC(=C1)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C18H14N2O4
